US07964645B2
Preparation of N-({[Bis-(4-chloro-phenyl)-methyl]-carbamoyl}-methyl)-3-phenyl-propionamide
Prepared in analogy to example 1.1 from C,C-bis-(4-chloro-phenyl)-methylamine (CA [14212-38-5]) and (3-phenyl-propionylamino)-acetic acid (CA [56613-60-6]).

reactant | C,C-bis-(4-chloro-phenyl)-methylamine | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)N | C13H11Cl2N
reactant | (3-phenyl-propionylamino)-acetic acid | C1(=CC=CC=C1)CCC(=O)NCC(=O)O | C11H13NO3
product | N-({[Bis-(4-chloro-phenyl)-methyl]-carbamoyl}-methyl)-3-phenyl-propionamide | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)NC(=O)CNC(CCC1=CC=CC=C1)=O | C24H22Cl2N2O2
